US07598391B2
1,1-Dicyclohexyl-3-{4-[2-(pyridin-2-yloxy)-ethyl]-thiazol-2-yl}-urea was prepared from the sodium salt of 1,1-dicyclohexyl-3-[4-(2-hydroxyethyl)-thiazol-2-yl]-urea (50 mg, 0.14 mmol; 0.5 mmol NaH, DMF as solvent) and 2-bromopyridine (20 mg, 0.14 mmol). After aqueous workup, the resulting oil was purified on silica gel to give 1,1-dicyclohexyl-3-{4-[2-(pyridin-2-yloxy)-ethyl]-thiazol-2-yl}-urea in 20 mg (33%) yield.

reactant | sodium | [Na] | Na
reactant | 1,1-dicyclohexyl-3-[4-(2-hydroxyethyl)-thiazol-2-yl]-urea | 0.14 mmol, 50 mg | C1(CCCCC1)N(C(=O)NC=1SC=C(N1)CCO)C1CCCCC1 | C18H29N3O2S
reactant | 2-bromopyridine | 0.14 mmol, 20 mg | BrC1=NC=CC=C1 | C5H4BrN
product | 1,1-dicyclohexyl-3-{4-[2-(pyridin-2-yloxy)-ethyl]-thiazol-2-yl}-urea | C1(CCCCC1)N(C(=O)NC=1SC=C(N1)CCOC1=NC=CC=C1)C1CCCCC1 | C23H32N4O2S
